US04455422
1.0 Gram of 6-{4-[4-(4-Methylphenyl)-1-piperazinyl]-1-butenyl}-3,4-dihydrocarbostyril and 0.2 g of palladium black were suspended in 100 ml of dioxane and the mixture was catalytically hydrogenated under an ordinary pressure at an ordinary temperature. The catalyst was removed by filtration and the filtrate was dried under a reduced pressure. The residue was recrystallized from isopropanol-diisopropyl ether to obtain 6-{4-[4-methylphenyl)piperazinyl]-butyl}-3,4-dihydrocarbostyril in colorless prism-like crystals. Yield: 0.7 g. Melting point: 160°-161° C.

reactant | 6-{4-[4-(4-Methylphenyl)-1-piperazinyl]-1-butenyl}-3,4-dihydrocarbostyril | CC1=CC=C(C=C1)N1CCN(CC1)CCC=CC=1C=C2CCC(NC2=CC1)=O | C24H29N3O
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
catalyst | palladium black | 0.2 g | [Pd] | Pd
product | 3,4-dihydrocarbostyril | N1C(=O)CCC2=CC=CC=C12 | C9H9NO
